US06153634
6-Fluoro-2-nitrobenzyl cyanide (23.10 g, 0.12 mole) (prepared according to A. Kalir, Synthesis (1987) 514-515) was dissolved in 10:1 MeOH/H2O (250 mL) and the solution was chilled in an ice water bath. HBr gas was bubbled into the cold mixture for 75 min. The solution was allowed to warm up to r.t. and then concentrated to half its volume under reduced pressure. THF (100 mL), water (100 mL) and conc. HCl (6 mL) were successively added at r.t. and stirring was maintained for 75 min. The mixture was poured into water and extracted with ethyl acetate. The combined organic layers were washed with water, sat. aq. NaHCO3 and brine, then dried over sodium sulfate and concentrated under reduced pressure. This material (20.9 g) was dissolved in acetic acid (200 mL) and hydrogenated for 2 h in a Parr apparatus at 50 Psi, in the presence of 10% Pd/C (4.33 g). The reaction mixture was filtered through a cake of Celite®, and the cake was washed with acetic acid. The solution was concentrated under reduced pressure and dissolved in MeOH (300 mL) containing 1N NaOH (15 mL). This mixture was poured into 2:1 sat aq. NaCl/H2O (600 mL) and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated. The crude residue was triturated with ether to afford 5.8 g (first crop) of pure 1,3-dihydro-4-fluoro-2H-indol-2-one. The mother liquor was chromatographed on Silica Gel (230-400 mesh, eluted with 40% ethyl acetate in hexanes) to yield1.6 g of product (overall yield from cyanide: 41%).

reactant | 6-Fluoro-2-nitrobenzyl cyanide | 0.12 mole, 23.10 g | FC1=CC=CC(=C1CC#N)[N+](=O)[O-] | C8H5FN2O2
reactant | MeOH H2O | 250 mL | CO.O
product | 1,3-dihydro-4-fluoro-2H-indol-2-one | 5.8 g | FC1=C2CC(NC2=CC=C1)=O | C8H6FNO
